US07276518B2
N′-[2-(5-Fluoro-1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride, nonpolar diastereomer
To a mixture of tetrahydrofuran (12 ml) and 1,2-dichloroethane (4 ml) there were added, under argon, first 2-(5-fluoro-1H-indol-3-yl)ethylamine (282 mg) and 4-dimethylamino-4-phenylcyclohexanone (343 mg), and acetic acid (0.09 ml) was added thereto. After 15 minutes, NaBH(OAc)3 (474 mg) was added, and stirring was carried out for 40 hours at RT. The reaction mixture was concentrated, and the residue was taken up in 1M hydrochloric acid (20 ml) and extracted with ether (2×30 ml). A white precipitate (191 mg) separated out here and was separated off. The aqueous solution was then rendered alkaline with 1M NaOH (28 ml) and extracted with ether (2×30 ml) and ethyl acetate (2×30 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue (468 mg) consisted of two products, just like the solid separated off previously. They were together (459 mg) purified by column chromatography with methanol/ammonia (500:1). The nonpolar diastereomer was obtained as a white solid (218 mg; m.p. 191-192° C.), was dissolved in ethanol (15 ml), with heating, and 3.3N ethanolic hydrochloric acid (0.47 ml, 1.56 mmol.) was added thereto. Because no solid had yet precipitated after 90 minutes, 2-butanone (5 ml) was added. Crystallisation of the hydrochloride then began after a short time (184 mg; m.p. 230-237° C.).

reactant | 2-(5-fluoro-1H-indol-3-yl)ethylamine | 282 mg | FC=1C=C2C(=CNC2=CC1)CCN | C10H11FN2
reactant | 4-dimethylamino-4-phenylcyclohexanone | 343 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | NaBH(OAc)3 | 474 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | hydrochloric acid | 1.56 mmol, 3.3N, 0.47 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetic acid | 0.09 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | N′-[2-(5-Fluoro-1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.FC=1C=C2C(=CNC2=CC1)CCNC1CCC(CC1)(N(C)C)C1=CC=CC=C1 | InChI=1S/C24H30FN3.2ClH/c1-28(2)24(19-6-4-3-5-7-19)13-10-21(11-14-24)26-15-12-18-17-27-23-9-8-20(25)16-22(18)23;;/h3-9,16-17,21,26-27H,10-15H2,1-2H3;2*1H
